US04408073
N-(N',N',2,2-tetramethyl-3-aminopropyl)acrylamide
A total of 820 g (3.8 moles) N-(N',N',2,2-tetramethyl-3-aminopropyl)-3-methoxypropionamide was fed continuously to an evaporator flask heated to 170° to 180° C., and the vapors were conducted under a vacuum of 14 millibars to a reaction tube 1 meter long and 3 cm in diameter which was heated externally, by means of a strip heater, to 300° C. and was filled with alumina beads impregnated with 10% sodium hydroxide. With a head temperature ranging from 150° to 220° C., about 475 g of a yellow oil was collected over a period of 2 hours, which for further purification was distilled once more in a high vacuum. 383 g (2.1 moles=52% of theory, based on 3-methoxypropionamide) of a product having a boiling point 0.2 of 98° to 102° C. was obtained.

reactant | N-(N',N',2,2-tetramethyl-3-aminopropyl)-3-methoxypropionamide | 3.8 moles, 820 g | CN(CC(CNC(CCOC)=O)(C)C)C | C11H24N2O2
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(N',N',2,2-tetramethyl-3-aminopropyl)acrylamide | CN(CC(CNC(C=C)=O)(C)C)C | C10H20N2O
